US04665080
E-4-Pentyloxy-1-[4-(1-imidazolylmethyl)phenyl]but-1-en-3-one
2 g (7.93 mmol) of dimethyl 2-oxo-3-pentyloxypropanephosphonate, 1.7 g (9.13 mmol) of 4-(1-imidazolylmethyl)benzaldehyde and 1.33 g (8.74 mmol) of DBU were stirred in 150 ml of dimethoxyethane at room temperature for 31 h. The mixture was filtered through silica gel and the solvent was removed from the filtrate in vacuo. Chromatography on silica gel (chloroform/methanol/25% aqueous NH3 =20/1/0.2) produced 1.5 g (4.80 mmol, 60%) as a yellowish oil which solidified in the refrigerator, melting point 35°-36° C.

reactant | dimethyl 2-oxo-3-pentyloxypropanephosphonate | 7.93 mmol, 2 g | O=C(CP(OC)(=O)OC)COCCCCC | C10H21O5P
reactant | 4-(1-imidazolylmethyl)benzaldehyde | 9.13 mmol, 1.7 g | N1C(=NC=C1)CC1=CC=C(C=O)C=C1 | C11H10N2O
reactant | DBU | 8.74 mmol, 1.33 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dimethoxyethane | 150 ml | C(OC)COC | C4H10O2
product | E-4-Pentyloxy-1-[4-(1-imidazolylmethyl)phenyl]but-1-en-3-one | C(CCCC)OCC(/C=C/C1=CC=C(C=C1)CC=1NC=CN1)=O | C19H24N2O2
